US07368578B2
A mixture of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde (1.10 g), 1,3-thiazolidine-2,4-dione (0.27 g), piperidine (0.04 g) and ethanol (30 mL) was heated under reflux for 3 hrs. The reaction mixture was concentrated, and the obtained crystals were washed with ethanol to give (5Z)-5-({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}methylene)-1,3-thiazolidine-2,4-dione as yellow crystals (1.13 g, yield 84%). Recrystallization from tetrahydrofuran-hexane gave yellow prism crystals. melting point: 252-253° C.

reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 1.10 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)OC)C | C27H23N3O6
reactant | 1,3-thiazolidine-2,4-dione | 0.27 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.04 g | N1CCCCC1 | C5H11N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | (5Z)-5-({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}methylene)-1,3-thiazolidine-2,4-dione | 1.13 g, yield 84% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2\C=C/2\C(NC(S2)=O)=O)C2=CC=CC=C2)C=C1)OC)C | C30H24N4O7S
